US05602121
11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine
To a stirred solution of 10, 11-dihydro-dibenz[b,f][1,4]oxazepin-11-one in dry toluene at room temperature was added piperazine (Aldrich) followed by the dropwise addition of TiCl4. The reaction mixture was refluxed for 2 hours, cooled to room temperature and then poured into an ammonium hydroxide solution. The resulting mixture was extracted with dichloromethane, and the combined organic phases were then dried (K2CO3) and concentrated. Purification of the product was conducted on silica gel using ethyl acetate:hexane (5:1→4:1) as the eluant to give the title compound.

reactant | 10, 11-dihydro-dibenz[b,f][1,4]oxazepin-11-one | C1=CC=CC2=C1C(NC1=C(O2)C=CC=C1)=O | C13H9NO2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | 11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine | N1(CCNCC1)C1=NC2=C(OC3=C1C=CC=C3)C=CC=C2 | C17H17N3O
